US07226644B2
In a nitrogen atmosphere, 17 g of 2,3,4-trifluoro-1-[trans-4-(trans-4-propylcyclohexyl)cyclohexyl]benzene was dissolved into 300 mL of THF, and cooled to −60° C. Into this, 39 mL of butyllithium (1.56 M of hexane solution) was added dropwise for 30 minutes, and stirred for 2 hours. Into this, a THF solution (50 mL) containing 14 g of iodine was added dropwise for 1 hour, and warmed to room temperature. After the reaction solution was poured into a sodium thiosulfate aqueous solution, and stirred for a while, an organic layer was separated, and an aqueous layer was extracted with toluene. After the extract and the organic layer were mixed together, washed using water and a saturated saline solution in that order, and dried using anhydrous magnesium sulfate, the solvent was evaporated under a reduced pressure to obtain 25 g of 5-iodo-2,3,4-trifluoro-1-[trans-4-(trans-4-propylcyclohexyl)cyclohexyl]benzene.

reactant | 2,3,4-trifluoro-1-[trans-4-(trans-4-propylcyclohexyl)cyclohexyl]benzene | 17 g | FC1=C(C=CC(=C1F)F)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCC | C21H29F3
reactant | butyllithium | 1.56 M, 39 mL | C(CCC)[Li]
reactant | iodine | 14 g | II | I2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 5-iodo-2,3,4-trifluoro-1-[trans-4-(trans-4-propylcyclohexyl)cyclohexyl]benzene | 25 g | IC=1C(=C(C(=C(C1)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCC)F)F)F | C21H28F3I
